US06013658
(2E)-4-tert-Butoxycarbonylamino-4-methylpent-2-enoic acid
(2E)-4-tert-Butoxycarbonylamino-4-methylpent-2-enoic acid ethyl ester (5.0 g, 19.4 mmol) was dissolved in dioxane (50 ml). A solution of lithium hydroxide (0.61 g, 25.3 mmol) in water (25 ml) was added. The solution was stirred for 16 h at 20° C. Ethyl acetate (75 ml) and water (20 ml) were added. The phases were separated, and the aqueous phase was extracted with ethyl acetate (20 ml). The combined organic phases were extracted with 1N sodium hydroxide solution (30 ml). The combined aqueous phases were acidified with 1N sodium hydrogensulfate solution until pH=2. The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic phases were dried (magnesium sulfate) and the solvent removed in vacuo. The crude (2E)-4-tert-butoxycarbonylamino-4-methylpent-2-enoic acid was used for further syntheses.

reactant | (2E)-4-tert-Butoxycarbonylamino-4-methylpent-2-enoic acid ethyl ester | 19.4 mmol, 5.0 g | C(C)OC(\C=C\C(C)(C)NC(=O)OC(C)(C)C)=O | C13H23NO4
reactant | lithium hydroxide | 25.3 mmol, 0.61 g | [OH-].[Li+]
reactant | Ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | (2E)-4-tert-Butoxycarbonylamino-4-methylpent-2-enoic acid | C(C)(C)(C)OC(=O)NC(/C=C/C(=O)O)(C)C | C11H19NO4
